### PR TITLE
[Merged by Bors] - chore(AlgebraicGeometry/AffineTransitionLimit): deduce that `Hom(-, X)` preserves certain cofiltered limits

### PR DESCRIPTION
**Pull request by chrisflav**
We deduce this from the unbundled statement. Usually the unbundled formulation is more useful, but sometimes we need the categorical spelling to apply general API. We also add some API for descending a finite affine open cover.

From Proetale.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 1]
```diff
@@ -1070,6 +1071,30 @@ lemma exists_isAffineOpen_preimage_eq
...
+    (hU' : ∀ i, IsAffineOpen (U i)) :
+    ∃ (i : I) (V : J → (D.obj i).Opens),
+      IsOpenCover V ∧ ∀ j, IsAffineOpen (V j) ∧ U j = c.π.app i ⁻¹ᵁ (V j) := by
+  classical
+  choose j V hV hVU using fun k ↦ exists_isAffineOpen_preimage_eq D c hc (U k) (hU' k)
+  cases nonempty_fintype J
+  obtain ⟨i, fi⟩ := IsCofiltered.inf_objs_exists (Finset.univ.image j)
+  replace fi : ∀ k, i ⟶ j k := fun k ↦ (fi (by simp)).some
+  obtain ⟨k, fkj, e⟩ := exists_map_eq_top D c hc (⨆ (k), D.map (fi k) ⁻¹ᵁ V k) (by
+    simp_rw [Hom.preimage_iSup, ← Hom.comp_preimage, c.w, hVU]
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:1090]:
```suggestion
    simp only [Hom.preimage_iSup, ← Hom.comp_preimage, c.w, hVU]
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
